US08138377B2
A solution of 4-iodotoluene (10 g, 45 mmol) in THF (300 mL) at −78° C. was treated with a solution of n-butyllithium (2.5 M in hexanes; 20 mL, 50 mmol) such that the reaction temperature remained ≦−78° C. After 15 minutes, a solution of 3-methoxy-2-cyclopenten-1-one (5.78 g, 52 mmol) in THF (50 mL) was added such that the reaction temperature remained ≦−78° C. The reaction mixture was warmed to −20° C. over 2 h, quenched with a solution of 1N HCl and concentrated in vacuo to remove THF. A solution of 1N HCl (40 mL) was added, the solution was stirred for 30 min and extracted with EtOAc (3×). The combined organic extracts were washed with saturated aqueous NaHCO3, brine, dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by silica gel chromatography using heptane/EtOAc as the eluting solvent to afford 4.92 g of 3-p-tolyl-cyclopent-2-enone as a white powder (Yield 63.5%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.42 (s, 3 H) 2.59 (ddd, J=4.83, 2.64, 2.49 Hz, 2 H) 3.05 (td, J=4.98, 1.76 Hz, 2 H) 6.55 (t, J=1.66 Hz, 1 H) 7.27 (d, J=8.00 Hz, 2 H) 7.57 (dt, J=8.30, 1.90 Hz, 2 H).

reactant | 4-iodotoluene | 45 mmol, 10 g | IC1=CC=C(C=C1)C | C7H7I
reactant | n-butyllithium | 50 mmol, 2.5 M, 20 mL | C(CCC)[Li]
reactant | 3-methoxy-2-cyclopenten-1-one | 52 mmol, 5.78 g | COC1=CC(CC1)=O | C6H8O2
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-p-tolyl-cyclopent-2-enone | 4.92 g, Yield 63.5% | C1(=CC=C(C=C1)C1=CC(CC1)=O)C | C12H12O
